US07109228B2
3-(Benzyloxy)propanoic acid
Sodium metal (249 mg, 10.8 mmol) was added to benzyl alcohol (30 g, 278 mmol) at room temperature under nitrogen and the reaction was stirred for 30 minutes. Methyl acrylate (25.9 ml, 259 mmol) was then added dropwise and the reaction was stirred at room temperature for 18 h. After quenching with saturated aqueous ammonium chloride solution (200 ml) the mixture was extracted with ethyl acetate (2×300 ml) and the combined organic extracts were washed with brine (100 ml), dried over magnesium sulphate and concentrated under reduced pressure. The residual oil was dissolved in ethanol (300 ml) and 1M aqueous sodium hydroxide solution (300 ml) was added dropwise. After 3 hours the ethanol was removed under reduced pressure and the aqueous residue was washed with dichloromethane (200 ml). The aqueous phase was then acidified with 2N aqueous hydrochloric acid (150 ml), extracted with dichloromethane (2×250 ml) and the combined organic extracts were dried over magnesium sulphate and concentrated under reduced pressure. The residual oil was dissolved in 10% aqueous potassium carbonate solution (300 ml), washed with diethylether (300 ml) and the aqueous phase was acidified to pH 1 using concentrated hydrochloric acid. The mixture was then extracted with dichloromethane (2×300 ml) and the combined organic extracts were dried over magnesium sulphate and concentrated under reduced pressure to provide the title compound (44.4 g) as a colourless oil.

reactant | benzyl alcohol | 278 mmol, 30 g | C(C1=CC=CC=C1)O | C7H8O
reactant | Methyl acrylate | 259 mmol, 25.9 ml | C(C=C)(=O)OC | C4H6O2
catalyst | Sodium | 10.8 mmol, 249 mg | [Na] | Na
product | 3-(Benzyloxy)propanoic acid | 44.4 g | C(C1=CC=CC=C1)OCCC(=O)O | C10H12O3
